US07985491B2
To 5.4 g of 2-bromo-6-(naphthalen-1-yl)naphthalene synthesized by the reaction of 2,6-dibromonaphthalene or 2-bromo-6-iodonaphthalene with 1-naphthaleneboronic acid, 20 ml of anhydrous ether and 30 ml of anhydrous toluene were added, and the reaction system was purged with argon and cooled at −30° C. To the cooled mixture, 11 ml of a 1.6 M hexane solution of normal-butyllithium was added dropwise, and the resultant mixture was stirred for 1 hour. After the obtained mixture was heated to −10° C. and then cooled to −70° C., a solution obtained by diluting 11 ml of boronic acid triisopropyl ester with ether was added dropwise, and the resultant mixture was stirred for 3.5 hours and then left standing for one night. After the resultant mixture was acidified with a 10% dilute hydrochloric acid, the reaction mixture was subjected to extraction with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried with anhydrous sodium sulfate, and the solvent was removed using an evaporator. The obtained white solid substance was washed with methylene chloride and dried, and 3.2 g of 2-(naphthalen-1-yl)naphthalene-6-boronic acid was obtained as white crystals (the yield: 67%).

reactant | 2-bromo-6-(naphthalen-1-yl)naphthalene | 5.4 g | BrC1=CC2=CC=C(C=C2C=C1)C1=CC=CC2=CC=CC=C12 | C20H13Br
reactant | 2,6-dibromonaphthalene | BrC1=CC2=CC=C(C=C2C=C1)Br | C10H6Br2
reactant | 2-bromo-6-iodonaphthalene | BrC1=CC2=CC=C(C=C2C=C1)I | C10H6BrI
reactant | 1-naphthaleneboronic acid | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(naphthalen-1-yl)naphthalene-6-boronic acid | 3.2 g, yield: 67% | C1(=CC=CC2=CC=CC=C12)C1=CC2=CC=C(C=C2C=C1)B(O)O | C20H15BO2
